US04698348
Using the method of Example 147, 3-amino-4(methylamino)quinoline (the hydrochloride salt of which having been obtained in Exmple 27) was reacted with isobutyric acid to provide 2-isopropyl-1-methyl-1H-imidazo[4,5-c]quinoline. The crude product was dissolved in ethyl acetate and an excess of concentrated hydrochloric acid was added. The precipitate was separated by filtration and recrystallized from ethanol to provide 2-isopropyl-1-methyl-1H-imidazo[4,5-c]quinoline hydrochloride, m.p. 260°-263° C. This salt was suspended in water and the mixture was basified (pH 8-10) with 50% aqueous sodium hydroxide. The solid was separated by filtration, washed with water and recrystallized from hexane to provide the free base as the hydrate, m.p. 76°-81° C. Analysis: Calculated for C14H15N3.0.25H2O: %C, 73.2; %H, 6.8; %N, 18.3; Found: %C, 73.0 %H, 7.0; %N, 18.4.

reactant | 3-amino-4(methylamino)quinoline | NC=1C=NC2=CC=CC=C2C1NC | C10H11N3
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
product | 2-isopropyl-1-methyl-1H-imidazo[4,5-c]quinoline | C(C)(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)C | C14H15N3
